US06677352B1
A solution of 2,6-dichloro-4-methyl-nicotinic acid (3.94 g, 19.1 mmol) in thionyl chloride (18 mL) was heated to 80° C. for 2 h. After cooling, the solution was concentrated in vacuo to give 2,6-dichloro-4-methyl-nicotinoyl chloride as yellow oil. It was carried on to the next step without further purification. This transformation can also be accomplished using oxalyl chloride with catalytic DMF in place of thionyl chloride.

reactant | 2,6-dichloro-4-methyl-nicotinic acid | 19.1 mmol, 3.94 g | ClC1=C(C(=O)O)C(=CC(=N1)Cl)C | C7H5Cl2NO2
reactant | thionyl chloride | 18 mL | S(=O)(Cl)Cl | Cl2OS
product | 2,6-dichloro-4-methyl-nicotinoyl chloride | ClC1=C(C(=O)Cl)C(=CC(=N1)Cl)C | C7H4Cl3NO
